US09212190B2
A solution of tert-butyl N-(4-[[(3R)-3-(carbamoylmethyl)-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]oxy]cyclohexyl)-N-methylcarbamate (524 mg, 1.14 mmol, 1.00 equiv) in DCM (6 mL) was added 6 M aqueous hydrochloric acid (1 mL) at 0° C. and the resulting solution was stirred for 2 h at room temperature. After concentrated under reduced pressure, the desired 2-[(3R)-12-[[4-(methylamino)cyclohexyl]oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]acetamide hydrochloride (451 mg, crude) was obtained as a light yellow solid.

reactant | tert-butyl N-(4-[[(3R)-3-(carbamoylmethyl)-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]oxy]cyclohexyl)-N-methylcarbamate | 1.14 mmol, 524 mg, 1.00 equiv | C(N)(=O)C[C@@H]1C=2C=3C(=NC=NC3SC2CC1)OC1CCC(CC1)N(C(OC(C)(C)C)=O)C | C23H32N4O4S
reactant | hydrochloric acid | 6 M, 1 mL | Cl | ClH
solvent | DCM | 6 mL | C(Cl)Cl | CH2Cl2
product | 2-[(3R)-12-[[4-(methylamino)cyclohexyl]oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]acetamide hydrochloride | 451 mg | Cl.CNC1CCC(CC1)OC1=NC=NC=2SC=3CC[C@@H](C3C12)CC(=O)N | InChI=1S/C18H24N4O2S.ClH/c1-20-11-3-5-12(6-4-11)24-17-16-15-10(8-14(19)23)2-7-13(15)25-18(16)22-9-21-17;/h9-12,20H,2-8H2,1H3,(H2,19,23);1H/t10-,11?,12?;/m1./s1
